US09302991B2
<Step-3>:(6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)methanamine hydrochloride
To a stirred solution of 5-(azidomethyl)-2-(2,2,3,3-tetrafluoropropoxy)pyridine (110 mg, 2.1 mmol, Step-2) in methanol (3.5 mL) and 2M hydrochloric acid (0.2 mL) is added palladium 10% on carbon (10 mg). The mixture is stirred at room temperature under hydrogen atmosphere (1 atm) for 4 hours. The mixture is filtered through a pad of celite and washed with methanol. The filtrate is concentrated in vacuo to give 110 mg (93% yield) of the title compound as a white solid.

reactant | 5-(azidomethyl)-2-(2,2,3,3-tetrafluoropropoxy)pyridine | 2.1 mmol, 110 mg | N(=[N+]=[N-])CC=1C=CC(=NC1)OCC(C(F)F)(F)F | C9H8F4N4O
reactant | hydrochloric acid | 2M, 0.2 mL | Cl | ClH
solvent | methanol | 3.5 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)methanamine hydrochloride | 110 mg, 93% yield | Cl.FC(COC1=CC=C(C=N1)CN)(C(F)F)F | InChI=1S/C9H10F4N2O.ClH/c10-8(11)9(12,13)5-16-7-2-1-6(3-14)4-15-7;/h1-2,4,8H,3,5,14H2;1H
